US04021567
26.1 g (0.207 mol) of dimethyl sulphate are added to 40 g (0.207 mol) of 1-p-fluorobenzyl-pyrrolidin-2-one and the mixture is heated to 60° for 4 hours. It is then cooled and a solution of sodium methylate prepared from 4.75 g (0.207 gram atom) of sodium and 100 ml of methanol is introduced slowly, at 0°. When the addition is complete, the mixture is stirred for 30 minutes at 50° C. and again cooled to 0°, and 18.9 g (0.31 mol) of nitromethane are added dropwise whilst continuing the stirring. The reaction mixture is left at ambient temperature for 12 hours and is then heated to 50° for 2 hours. It is cooled, and poured into 500 ml of water, which are then extracted with chloroform. The organic layer is now separated off, washed with water and dried over magnesium sulphate, and the solvent is driven off. The residual product is washed with ether and recrystallised from ethanol. 27 g (55.2% yield) of 1-p-fluorobenzyl-2-nitromethylene-pyrrolidine are thus collected in the form of light yellow crystals melting at 108.5°-109°.

reactant | dimethyl sulphate | 0.207 mol, 26.1 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 1-p-fluorobenzyl-pyrrolidin-2-one | 0.207 mol, 40 g | FC1=CC=C(CN2C(CCC2)=O)C=C1 | C11H12FNO
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 4.75 g | [Na] | Na
reactant | nitromethane | 0.31 mol, 18.9 g | [N+](=O)([O-])C | CH3NO2
solvent | water | 500 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 1-p-fluorobenzyl-2-nitromethylene-pyrrolidine | 27 g, 55.2% yield | FC1=CC=C(CN2C(CCC2)=C[N+](=O)[O-])C=C1 | C12H13FN2O2
